US08389508B2
1-(3-(5-(3-chloro-4-isopropoxyphenyl)-1,3,4-thiadiazol-2-yl)-2-ethylbenzyl)-3-(methoxycarbonyl)azetidin-1-ium chloride
To a solution of [2-ethyl-3-({3-[(methyloxy)carbonyl]-1-azetidinyl}methyl)phenyl]boronic acid (2.2 g, 7.94 mmol)) in 1,4-dioxane (18 mL) and water (6 mL) were added 2-bromo-5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazole (3.18 g, 9.53 mmol), Pd2(dba)3 (0.582 g, 0.635 mmol), potassium carbonate (3.29 g, 23.82 mmol) and X-Phos (0.454 g, 0.953 mmol). The mixture was heated to 90° C. and stirred for 7 hours 11 mins. LCMS showed that the boronic acid was almost consumed completely. The heating was stopped and the solution was cooled to rt. The solution was filtered with celite and washed with EtOAc. The filtrate was concentrated under the reduced pressure. The residue was dissolved in EtOAc (50 mL) then washed with NaOH (30 mL, 1.0 M), organic phase was concentrated under reduced pressure. 50 mL TBME and 50 mL HCl (1.0 M) were added to the above residue and the obtained mixture was stirred at rt for 30 min. The yellow solid was collected by filtering. The yellow solid was stirred in TBME (50 mL) for 30 min at rt. 1-(3-(5-(3-chloro-4-isopropoxyphenyl)-1,3,4-thiadiazol-2-yl)-2-ethylbenzyl)-3-(methoxycarbonyl)azetidin-1-ium chloride (1.06 g) was collected by filtering and drying in vacuum as grey solid. δH (DMSO-d6, 600 MHz): 1.09 (3H, t), 1.33 (6H, m), 2.92 (2H, m), 3.72 (3H, m), 4.31 (4H, m), 4.58 (1H, m), 4.64 (1H, d), 4.84 (1H, dt), 7.39 (1H, m), 7.47 (1H, t,) 7.66 (1H, d), 7.72 (1H, d), 7.97 (1H, d), 8.10 (1H, s), 10.92 (1H, dd), 11.16 (1H, m).

reactant | [2-ethyl-3-({3-[(methyloxy)carbonyl]-1-azetidinyl}methyl)phenyl]boronic acid | 7.94 mmol, 2.2 g | C(C)C1=C(C=CC=C1CN1CC(C1)C(=O)OC)B(O)O | C14H20BNO4
reactant | 2-bromo-5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,3,4-thiadiazole | 9.53 mmol, 3.18 g | BrC=1SC(=NN1)C1=CC(=C(C=C1)OC(C)C)Cl | C11H10BrClN2OS
reactant | potassium carbonate | 23.82 mmol, 3.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | X-Phos | 0.953 mmol, 0.454 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | boronic acid | B(O)O | BH3O2
solvent | 1,4-dioxane | 18 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.635 mmol, 0.582 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 6 mL | O | H2O
product | 1-(3-(5-(3-chloro-4-isopropoxyphenyl)-1,3,4-thiadiazol-2-yl)-2-ethylbenzyl)-3-(methoxycarbonyl)azetidin-1-ium chloride | [Cl-].ClC=1C=C(C=CC1OC(C)C)C1=NN=C(S1)C=1C(=C(C[NH+]2CC(C2)C(=O)OC)C=CC1)CC | InChI=1S/C25H28ClN3O3S.ClH/c1-5-19-17(12-29-13-18(14-29)25(30)31-4)7-6-8-20(19)24-28-27-23(33-24)16-9-10-22(21(26)11-16)32-15(2)3;/h6-11,15,18H,5,12-14H2,1-4H3;1H
